US06949542B2
3-[2,3′]Bipyridinyl-4-yl-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from [2,3′]bipyridinyl-4-carboxylic acid methyl ester [prepared by the following procedure: A mixture of pyridine-3-boronic acid (0.7 g, 5.7 mmol), 2-bromo-isonicotinic acid (1.15 g, 5.7 mmol) and K2CO3 (0.63 g, 4.6 mmol) in CH3CN (120 mL)/H2O (10 mL) was degassed and Pd(PPh3)4 (0.13 g, 0.11 mmol) was added. The mixture was stirred for 24 h at 80° C. in an atmosphere of nitrogen and then concentrated in vacuum to a volume of about 10 ml. The pH was set to 6 by addition of 3N HCl and the solution was then evaporated in vacuum to dryness. The residue was stirred in 1N HCl-MeOH (23 ml) for 65 h at 50° C. The crude product was purified by chromatography (silica gel, AcOEt/cyclohexane 1:1) to give the methyl ester as light yellow oil (0.37 g).] (044 g, 2.1 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a light yellow oil (0.62 g, crude product).

reactant | [2,3′]bipyridinyl-4-carboxylic acid methyl ester | COC(=O)C1=CC(=NC=C1)C=1C=NC=CC1 | C12H10N2O2
reactant | pyridine-3-boronic acid | 5.7 mmol, 0.7 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 2-bromo-isonicotinic acid | 5.7 mmol, 1.15 g | BrC=1C=C(C(=O)O)C=CN1 | C6H4BrNO2
reactant | K2CO3 | 4.6 mmol, 0.63 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 120 mL | CC#N | C2H3N
catalyst | Pd(PPh3)4 | 0.11 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 10 mL | O | H2O
product | 3-[2,3′]Bipyridinyl-4-yl-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C=1C=NC=CC1)=O | C17H18N2O3
